US06239151B1
A solution of 0.232 g of (E)-2(R)-[1(S)-(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2(RS)-ureidopropionyl)valerohydrazide in 5 ml of methanol was treated with 0.03 g of p-toluenesulphonic acid monohydrate. The mixture was stirred for 2 hours at room temperature and evaporated. The residue was triturated with diethyl ether, filtered off and dried to give 0.168 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2(RS)-ureidopropionyl)valerohydrazide in the form of a white solid.

reactant | 2′-isobutyl-4-methyl-2′-(2(RS)-ureidopropionyl)valerohydrazide | C(C(C)C)N(NC(CCC(C)C)=O)C(C(C)NC(=O)N)=O | C14H28N4O3
reactant | p-toluenesulphonic acid monohydrate | 0.03 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 5 ml | CO | CH4O
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2(RS)-ureidopropionyl)valerohydrazide | 0.168 g | ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(C(C)NC(=O)N)=O)CC(C)C)CC(C)C | C25H39N5O5
